US07846944B2
Step 5: Synthesis of 3-(1-(2-chlorophenyl)-7-methyl-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridin-5-yl)-5-fluoro-4-methylbenzamide
A mixture of 3-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (118 mg, 422 μmol), 5-bromo-1-(2-chlorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (130 mg, 384 μmol), Pd(PPh3)4 (0.016 mmol, 19 mg), and sodium carbonate (2 M) (0.576 ml, 1.15 μmol) in 2.0 mL of dioxane in a sealed tube was heated in a microwave at 125° C. for 25 min. The mixture was treated with 2 mL of 1 N NaOH solution, extracted with 2×5 mL of EtOAc. The combined organic phases were washed with 2 mL of brine, dried and concentrated. The brown residue was loaded on an ISCO 12 g column (eluting with a gradient of 1-6% MeOH in DCM) to provide the title compound (140 mg) as an off white crystalline solid. MS (ESI, pos.ion) m/z: 411.2 (M+1).

reactant | 3-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 422 μmol, 118 mg | FC=1C=C(C(=O)N)C=C(C1C)B1OC(C(O1)(C)C)(C)C | C14H19BFNO3
reactant | 5-bromo-1-(2-chlorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 384 μmol, 130 mg | BrC1=CC2=C(N(C1=O)C)N(N=C2)C2=C(C=CC=C2)Cl | C13H9BrClN3O
reactant | NaOH | 1 N, 2 mL | [OH-].[Na+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.016 mmol, 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | sodium carbonate | 1.15 μmol, 2 M, 0.576 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 3-(1-(2-chlorophenyl)-7-methyl-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridin-5-yl)-5-fluoro-4-methylbenzamide | 140 mg | ClC1=C(C=CC=C1)N1N=CC2=C1N(C(C(=C2)C=2C=C(C(=O)N)C=C(C2C)F)=O)C | C21H16ClFN4O2
